US07105517B2
b) 4-[2-(4-Methylpiperazin-1-yl)-4-phenyl-thiazol-5-yl]-2-methylsulfinyl-pyrimidine
A solution of N-methylpiperazine (0.6 g, 6.0 mmol) in tetrahydrofuran (5 ml) is added to a well stirred solution of 4-(2-chloro-4-phenyl-thiazol-5-yl)-2-methylsulfinyl-pyrimidine (1.0 g, 3.0 mmol) in tetrahydrofuran (20 ml) at +5° C. The reaction mixture is allowed to warm to room temperature over night. Evaporation of the solvent leaves a crystalline residue that is suspended in water, filtered with suction, washed with diethyl ether and dried under vacuum. The product 4-[2-(4-methylpiperazin-1-yl)-4-phenyl-thiazol-5-yl]-2-methylsulfinyl-pyrimidine shows a m.p. of 166–169° C.

reactant | N-methylpiperazine | 6.0 mmol, 0.6 g | CN1CCNCC1 | C5H12N2
reactant | 4-(2-chloro-4-phenyl-thiazol-5-yl)-2-methylsulfinyl-pyrimidine | 3.0 mmol, 1.0 g | ClC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)S(=O)C | C14H10ClN3OS2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[2-(4-Methylpiperazin-1-yl)-4-phenyl-thiazol-5-yl]-2-methylsulfinyl-pyrimidine | CN1CCN(CC1)C=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)S(=O)C | C19H21N5OS2
